US07087601B2
Utilizing the general procedure outlined in the synthesis of 2-[4-(6-bromopyridin-2-yl)-3-methoxyphenyl]-1,3-benzoxazole, 2-[3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-benzoxazole (150 mg, 0.43 mmol) was reacted with 2-bromo-4-methylpyridine (47 μL, 0.43 mmol) to afford the desired 2-[3-methoxy-4-(4-methylpyridin-2-yl)phenyl]-1,3-benzoxazole as a colorless solid: 1H NMR (CDCl3, 300 MHz) δ 8.57 (s, 1H), 7.97–7.96 (m, 2H), 7.89 (s, 1H), 7.82–7.79 (m, 2H), 7.63–7.54 (m, 2H), 7.39–7.36 (m, 2H), 4.01 (s, 3H), 2.39 (s, 3H). MS (ESI) 317 (M+H)+.

reactant | 2-[4-(6-bromopyridin-2-yl)-3-methoxyphenyl]-1,3-benzoxazole | BrC1=CC=CC(=N1)C1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)OC | C19H13BrN2O2
reactant | 2-[3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-benzoxazole | 0.43 mmol, 150 mg | COC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)C=1OC2=C(N1)C=CC=C2 | C20H22BNO4
reactant | 2-bromo-4-methylpyridine | 0.43 mmol, 47 μL | BrC1=NC=CC(=C1)C | C6H6BrN
product | 2-[3-methoxy-4-(4-methylpyridin-2-yl)phenyl]-1,3-benzoxazole | COC=1C=C(C=CC1C1=NC=CC(=C1)C)C=1OC2=C(N1)C=CC=C2 | C20H16N2O2
